US04843082
(A) 4-Methyl-8-quinolinol
A solution of 100 ml of concentrated hydrochloric acid, 27.3 g (250 mmol) of 2-aminophenol and 41 ml (500 mmol, 2 eq.) of methyl vinyl ketone was heated to 110°-120° C. for 18 hours. The reaction was cooled, poured onto crushed ice, brought to pH 7 using 10N sodium hydroxide and extracted with ethyl acetate. The organic layers were washed with water, brine, dried (magnesium sulfate) and concentrated in vacuo. Purification by flash chromatography (silica gel, 1:2 ethyl acetate/petroleum ether) and crystallization (ethyl acetate) gave 5.3 g of the title compound as a light yellow solid: melting point 135°-136° C.

reactant | 2-aminophenol | 250 mmol, 27.3 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | methyl vinyl ketone | 500 mmol, 41 ml, 2 eq. | C(=C)C(=O)C | C4H6O
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 4-Methyl-8-quinolinol | 5.3 g | CC1=CC=NC2=C(C=CC=C12)O | C10H9NO
